datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])[C:5]1([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:10])([H:8])[H:9],172.13
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([O:18][O:19])([H:27])[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:19][O:18][C:17]([C:15]([C:14]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:27])[H:28],66.944
[C:0](=[O:1])([H:2])[H:3].[O:4]>>[C:0](=[O:1])[H:3].[H:2][O:4],11.5478
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10]>>[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[H:3][O:10],22.84464
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[O:18][O:19][H:20]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:20])[H:14])[H:10])([H:7])([H:8])[H:9].[O:18][O:19],-13.7026
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35],-5.8576
[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[C:6]([O:7][H:10])([H:8])[H:9]>>[C:0]([O:1][O:2][H:10])([H:3])([H:4])[H:5].[C:6](=[O:7])([H:8])[H:9],0.0
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([O:6][O:7][H:16])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:12])[O:6]1.[O:7][H:16],75.312
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15],-0.8368
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([H:24])[H:25])[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:21](=[C:22]([H:24])[H:25])[H:23])[H:11],4.8116
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([c:17]1[c:18]([H:33])[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]1[H:37])[H:32])[c:23]1[c:24]([H:38])[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]1[H:42])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:29])([H:30])[H:31])([C:16]([c:17]1[c:18]([H:33])[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]1[H:37])[H:32])[c:23]1[c:24]([H:38])[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]1[H:42])[H:7])([H:5])[H:6],56.3166
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:12]([C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21])[H:5],28.6604
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])([H:7])[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22])([H:4])([H:5])[H:6],2.42672
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[c:7]1([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:13].[c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],85.3118
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24])[H:8])([H:6])[H:7],-9.45584
[N:0]([O:1][H:4])([H:2])[H:3].[O:5][H:6]>>[H:4][O:5][H:6].[N:0]([O:1])([H:2])[H:3],-2.5104
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[S:6][H:7]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[S:6][H:7],-3.3472
